US05308863
Trans and cis 5,6-dihydro-6-ethoxymethyl-4-ethylamino-4H-thieno-[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide
5,6-Dihydro-6-ethoxymethyl-4-hydroxy-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide (4.25 g, 0.0123 mol) was dissolved in dry pyridine (25 ml) and the solution was cooled to -10° C. p-Toluenesulfonyl chloride (5.14 g, 0.027 mol) was added and the mixture was stirred at -10° C. for 5 hours. Anhydrous ethylamine (26 ml, 0.4 mol) was added and the mixture was stirred for 2 hours at room temperature. Finally, 70% ethylamine (32 ml. 0.40 mol) was added and the mixture was heated at 50° C. overnight. The dark mixture was concentrated in vacuo and the residual oil was taken up in ethyl acetate (100 ml) and saturated sodium bicarbonate (100 ml). The aqueous layer was separated and extracted with ethyl acetate. The combined ethyl, acetate solutions were washed with saturated sodium chloride, dried, filtered and concentrated in vacuo. The oil obtained was a 2:1 mixture of cis and trans isomers which were separated by silica gel chromatography using 7.5% methanol-chloroform. Total recovery was 2.43 g. Yield of 33 was 54%.

reactant | 5,6-Dihydro-6-ethoxymethyl-4-hydroxy-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide | 0.0123 mol, 4.25 g | C(C)OCC1CC(C2=C(S1(=O)=O)SC(=C2)S(=O)(=O)N)O | C10H15NO6S3
reactant | p-Toluenesulfonyl chloride | 0.027 mol, 5.14 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ethylamine | 0.4 mol, 26 ml | C(C)N | C2H7N
reactant | ethylamine | 0.40 mol, 32 ml | C(C)N | C2H7N
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | cis 5,6-dihydro-6-ethoxymethyl-4-ethylamino-4H-thieno-[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide | C(C)OC[C@@H]1C[C@@H](C2=C(S1(=O)=O)SC(=C2)S(=O)(=O)N)NCC | C12H20N2O5S3
